US07709509B2
138 mg of 2-Fluoro-N-hydroxy-4-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazole-5-ylmethoxy]-benzamidine were dissolved in 2 ml dichloromethane. 35 μl pyridine and 53 μl phenylchloroformate were added and the mixture stirred at room temperature for thirty minutes. The mixture was diluted by the addition of 20 ml ethyl acetate, washed with brine and dried over MgSO4. The solvent was evaporated in vacuo. The resulting residue was dissolved in 2 ml acetonitrile and 105 μl 1,8-Diazabicyclo[5.4.0]undec-7-ene was added. The mixture was stirred at room temperature for 10 minutes. The mixture was evaporated in vacuo and the resulting crude material was purified by reversed phase HPLC to obtain 70 mg 3-{2-Fluoro-4-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazole-5-ylmethoxy]-phenyl}-4H-[1,2,4]oxadiazole-5-one as an amorphous lyophilisate.

reactant | 2-Fluoro-N-hydroxy-4-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazole-5-ylmethoxy]-benzamidine | 138 mg | FC1=C(C(=N)NO)C=CC(=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C | C19H15F4N3O2S
reactant | pyridine | 35 μl | N1=CC=CC=C1 | C5H5N
reactant | phenylchloroformate | 53 μl | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 3-{2-Fluoro-4-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazole-5-ylmethoxy]-phenyl}-4H-[1,2,4]oxadiazole-5-one | 70 mg | FC1=C(C=CC(=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C1=NOC(N1)=O | C20H13F4N3O3S
